### PR TITLE
[Merged by Bors] - feat: non-zero smul-divisors

### PR DESCRIPTION
**Pull request by jjaassoonn**
If $R$ is a monoid with $0$ and $M$ an additive monoid with an $R$-action, then the set of non-zero smul-divisors of $R$ is a submonoid. for any $r \in R$, $r$ is a non-zero smul-divisors if and only if for any $m\in M$, $r \cdot m = 0$ implies $m = 0$. These elements are also called $M$-regular. They are useful in regular sequences.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/NonZeroDivisors.lean [hunk 1]
```diff
@@ -37,6 +35,19 @@ def nonZeroDivisors (R : Type*) [MonoidWithZero R] : Submonoid R where
 /-- The notation for the submonoid of non-zerodivisors. -/
 scoped[nonZeroDivisors] notation:9000 R "⁰" => nonZeroDivisors R
 
+/-- Let `R` be a monoid with zero and `M` an additive monoid with an `R`-action, then the collection
+of non-zero smul-divisors forms a submonoid. These elements are also called `M`-regular.-/
+def nonZeroSMulDivisors (R : Type*) [MonoidWithZero R] (M : Type _) [AddMonoid M] [MulAction R M] :
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NonZeroDivisors.lean:40]: Does this need `AddMonoid M`?

File: Mathlib/RingTheory/NonZeroDivisors.lean [hunk 2]
```diff
@@ -37,6 +35,19 @@ def nonZeroDivisors (R : Type*) [MonoidWithZero R] : Submonoid R where
...
+    Submonoid R where
+  carrier := { r | ∀ m : M, r • m = 0 → m = 0}
+  one_mem' m h := (one_smul R m) ▸ h
+  mul_mem' {r₁ r₂} h₁ h₂ m H := h₂ _ $ h₁ _ $ mul_smul r₁ r₂ m ▸ H
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NonZeroDivisors.lean:44]: Style guide says:
```suggestion
  mul_mem' {r₁ r₂} h₁ h₂ m H := h₂ _ <| h₁ _ <| mul_smul r₁ r₂ m ▸ H
```

File: Mathlib/RingTheory/NonZeroDivisors.lean [hunk 3]
```diff
@@ -37,6 +35,19 @@ def nonZeroDivisors (R : Type*) [MonoidWithZero R] : Submonoid R where
...
+
+/-- The notation for the submonoid of non-zero smul-divisors. -/
+scoped[nonZeroSMulDivisors] notation:9000 R "⁰[" M "]" => nonZeroSMulDivisors R M
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NonZeroDivisors.lean:47]: Please mention this in the module docstring

File: Mathlib/RingTheory/NonZeroDivisors.lean [hunk 4]
```diff
@@ -178,3 +189,13 @@ theorem prod_zero_iff_exists_zero [NoZeroDivisors M₁] [Nontrivial M₁] {s : M
 #align prod_zero_iff_exists_zero prod_zero_iff_exists_zero
 
 end nonZeroDivisors
+
+section nonZeroSMulDivisors
+
+open nonZeroSMulDivisors nonZeroDivisors
+
+variable {R : Type _} (M : Type _) [MonoidWithZero R] [AddMonoid M] [MulAction R M]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NonZeroDivisors.lean:197]:
```suggestion
variable {R : Type*} (M : Type*) [MonoidWithZero R] [AddMonoid M] [MulAction R M]
```

File: Mathlib/RingTheory/NonZeroDivisors.lean (hunk 1 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/NonZeroDivisors.lean:40]: Indeed, it is sufficient to assume `[Zero M]` only

File: Mathlib/RingTheory/NonZeroDivisors.lean (hunk 3 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/NonZeroDivisors.lean:51]: done

File: Mathlib/RingTheory/NonZeroDivisors.lean [hunk 5]
```diff
@@ -178,3 +193,20 @@ theorem prod_zero_iff_exists_zero [NoZeroDivisors M₁] [Nontrivial M₁] {s : M
...
+variable (R M : Type*) [MonoidWithZero R] [Zero M] [MulAction R M]
+
+lemma mem_nonZeroSMulDivisors_iff (x : R) : x ∈ R⁰[M] ↔ ∀ (m : M), x • m = 0 → m = 0 := Iff.rfl
+
+lemma nonZeroSMulDivisors_over_self_eq_nonZeroDivisors_of_mul_comm
+    (comm : ∀ (r s : R), r * s = s * r) :
+    R⁰[R] = R⁰ := by
+  ext r : 1
+  rw [mem_nonZeroSMulDivisors_iff R R, mem_nonZeroDivisors_iff]
+  simp only [smul_eq_mul, comm]
```
Comment (jjaassoonn) [inline Mathlib/RingTheory/NonZeroDivisors.lean:210]: when you say reuse `nonZeroDivisors`, do you mean something like this @eric-wieser

Comment (eric-wieser) [reply Mathlib/RingTheory/NonZeroDivisors.lean:210]: No, I meant `(MulOpposite R)⁰[R] = R⁰` which should be true by `rfl` without `comm`

Comment (jjaassoonn) [reply Mathlib/RingTheory/NonZeroDivisors.lean:210]: This has bad typing `(MulOpposite R)⁰[R]` has type `Submonoid Rᵐᵒᵖ`

Comment (jjaassoonn) [reply Mathlib/RingTheory/NonZeroDivisors.lean:210]: `R⁰[MulOpposite R] = R⁰` I can't get `rfl` on this either

Comment (eric-wieser) [reply Mathlib/RingTheory/NonZeroDivisors.lean:210]: Ah, I think I mean `Submonoid.unop (MulOpposite R)⁰[R]` if that exists

Comment (jjaassoonn) [reply Mathlib/RingTheory/NonZeroDivisors.lean:210]: I come up with something like this
```lean

def unop' (x : Submonoid (MulOpposite R)) : Submonoid R where
  carrier := MulOpposite.unop '' x
  mul_mem' := sorry
  one_mem' := sorry

def op' (x : Submonoid R) : Submonoid (MulOpposite R) where
  carrier := MulOpposite.op '' x
  mul_mem' := sorry
  one_mem' := sorry

example : (@unop' R _ ((MulOpposite R)⁰[R]) : Submonoid R) = R⁰ := sorry
example : (@op' R _ R⁰) = (MulOpposite R)⁰[R] := sorry
```
I still don't think the proofs are `rfl` though

Comment (eric-wieser) [reply Mathlib/RingTheory/NonZeroDivisors.lean:210]: They should be defined with the preimage not the image

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 6]
```diff
@@ -89,7 +89,6 @@ def Submonoid.toAddSubmonoid : Submonoid M ≃o AddSubmonoid (Additive M) where
   right_inv x := by cases x; rfl
   map_rel_iff' := Iff.rfl
 #align submonoid.to_add_submonoid Submonoid.toAddSubmonoid
-#align submonoid.to_add_submonoid_symm_apply_coe Submonoid.toAddSubmonoid_symm_apply_coe
```
Comment (jjaassoonn) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:92]: no idea why right hand side is no longer existent

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 7]
```diff
@@ -138,7 +137,6 @@ def AddSubmonoid.toSubmonoid : AddSubmonoid A ≃o Submonoid (Multiplicative A)
   map_rel_iff' := Iff.rfl
 #align add_submonoid.to_submonoid AddSubmonoid.toSubmonoid
 #align add_submonoid.to_submonoid_symm_apply_coe AddSubmonoid.toSubmonoid_symm_apply_coe
-#align add_submonoid.to_submonoid_apply_coe AddSubmonoid.toSubmonoid_apply_coe
```
Comment (jjaassoonn) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:141]: no idea why right hand side is no longer existent

File: Mathlib/GroupTheory/Submonoid/Basic.lean [hunk 8]
```diff
@@ -93,6 +95,24 @@ structure Submonoid (M : Type*) [MulOneClass M] extends Subsemigroup M where
...
+  one_mem' := Submonoid.one_mem' _
+
+/-- pull an opposite submonoid back to a submonoid along `op`-/
+@[simps]
+def Submonoid.unop {M : Type*} [MulOneClass M] (x : Submonoid (MulOpposite M)) : Submonoid M where
+  carrier := MulOpposite.op ⁻¹' x.1
+  mul_mem' {a b} ha hb := by
+    simp only [Set.mem_preimage, MulOpposite.unop_mul, SetLike.mem_coe] at ha hb ⊢
+    exact mul_mem hb ha
+  one_mem' := Submonoid.one_mem' _
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Submonoid/Basic.lean:114]: Can you put these in a new file to match https://github.com/leanprover-community/mathlib4/blob/3715499a32de6e3036c2bd3db4f94ff4bb0472c7/Mathlib/GroupTheory/Subgroup/MulOpposite.lean?

Comment (jjaassoonn) [reply Mathlib/GroupTheory/Submonoid/Basic.lean]: done

File: Mathlib/GroupTheory/Subgroup/MulOpposite.lean [hunk 9]
```diff
@@ -17,6 +17,52 @@ subgroup, subgroups
 
 
 variable {G : Type*} [Group G]
+variable {M : Type*} [MulOneClass M]
+
+namespace Submonoid
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/MulOpposite.lean:22]: I think this should go in a new `Mathlib/GroupTheory/Submonoid/MulOpposite.lean` file.

File: Mathlib/GroupTheory/Subgroup/MulOpposite.lean [hunk 10]
```diff
@@ -17,6 +17,52 @@ subgroup, subgroups
...
+instance (H : Submonoid M) [Encodable H] : Encodable (opposite H) :=
+  Encodable.ofEquiv H H.oppositeEquiv.symm
+
+@[to_additive]
+instance (H : Submonoid M) [Countable H] : Countable (opposite H) :=
+  Countable.of_equiv H H.oppositeEquiv
+
+end Submonoid
 
 namespace Subgroup
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/MulOpposite.lean:67]: Can you add the lemma that says `(opposite H).toSubmonoid = opposite H.toSubmonoid` and similar for `opposite.symm`?

File: Mathlib/GroupTheory/Subgroup/MulOpposite.lean (hunk 9 above)
Comment (eric-wieser) [reply Mathlib/GroupTheory/Subgroup/MulOpposite.lean:22]: (this might be a job for a spin-off PR)

File: Mathlib/GroupTheory/Subgroup/MulOpposite.lean [hunk 11]
```diff
@@ -17,6 +17,52 @@ subgroup, subgroups
...
+    simp only [Set.mem_preimage, MulOpposite.unop_mul, SetLike.mem_coe] at ha hb ⊢
+    exact mul_mem hb ha
+  one_mem' := Submonoid.one_mem' _
+
+/-- pull an opposite submonoid back to a submonoid along `op`-/
+@[to_additive (attr := simps)]
+def unop {M : Type*} [MulOneClass M] (x : Submonoid (MulOpposite M)) : Submonoid M where
+  carrier := MulOpposite.op ⁻¹' x.1
+  mul_mem' {a b} ha hb := by
+    simp only [Set.mem_preimage, MulOpposite.unop_mul, SetLike.mem_coe] at ha hb ⊢
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/MulOpposite.lean:39]: I would guess that you can delete this line.

Comment (jjaassoonn) [reply Mathlib/GroupTheory/Subgroup/MulOpposite.lean:39]: The best I can do is `simpa using mul_mem ha hb`

File: Mathlib/GroupTheory/Subgroup/MulOpposite.lean (hunk 9 above)
Comment (jjaassoonn) [reply Mathlib/GroupTheory/Subgroup/MulOpposite.lean]: done

File: Mathlib/GroupTheory/Subgroup/MulOpposite.lean (hunk 10 above)
Comment (jjaassoonn) [reply Mathlib/GroupTheory/Subgroup/MulOpposite.lean]: done

File: Mathlib/GroupTheory/Submonoid/MulOpposite.lean [hunk 12]
```diff
@@ -0,0 +1,49 @@
...
+def op {M : Type*} [MulOneClass M] (x : Submonoid M) : Submonoid (MulOpposite M) where
+  carrier := MulOpposite.unop ⁻¹' x.1
+  mul_mem' {a b} ha hb := by simpa using mul_mem hb ha
+  one_mem' := Submonoid.one_mem' _
+
+/-- pull an opposite submonoid back to a submonoid along `op`-/
+@[to_additive (attr := simps) "pull an opposite additive submonoid back to a submonoid along `op`"]
+def unop {M : Type*} [MulOneClass M] (x : Submonoid (MulOpposite M)) : Submonoid M where
+  carrier := MulOpposite.op ⁻¹' x.1
+  mul_mem' {a b} ha hb := by simpa using mul_mem hb ha
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Submonoid/MulOpposite.lean:32]: Does
```suggestion
  mul_mem' {a b} ha hb := x.mul_mem hb ha
```
work? It's what the `Subgroup` file uses.

File: Mathlib/GroupTheory/Submonoid/MulOpposite.lean [hunk 13]
```diff
@@ -0,0 +1,49 @@
...
+  one_mem' := Submonoid.one_mem' _
+
+/-- A submonoid `H` of `G` determines a submonoid `H.opposite` of the opposite group `Gᵐᵒᵖ`. -/
+@[to_additive (attr := simps) "A additive submonoid `H` of `G` determines an additive submonoid
+`H.opposite` of the opposite group `Gᵐᵒᵖ`."]
+def opposite : Submonoid M ≃ Submonoid Mᵐᵒᵖ where
+  toFun := op
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Submonoid/MulOpposite.lean:39]: I think it would make sense to call this `opEquiv` (since it's the `Equiv` version of `op`), and make the same change to the `Subgroup` versions.

File: Mathlib/RingTheory/NonZeroDivisors.lean [hunk 14]
```diff
@@ -178,3 +194,21 @@ theorem prod_zero_iff_exists_zero [NoZeroDivisors M₁] [Nontrivial M₁] {s : M
...
+
+open nonZeroSMulDivisors nonZeroDivisors
+
+variable (R M : Type*) [MonoidWithZero R] [Zero M] [MulAction R M]
+
+lemma mem_nonZeroSMulDivisors_iff (x : R) : x ∈ R⁰[M] ↔ ∀ (m : M), x • m = 0 → m = 0 := Iff.rfl
+
+@[simp, nolint simpNF]
+lemma Submonoid.unop_mulOpposite_nonZeroSmulDivisors_over_itself_eq_nonZeroDivisors :
+    Submonoid.unop ((MulOpposite R)⁰[R]) = R⁰ := rfl
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NonZeroDivisors.lean:208]:
```suggestion
    Submonoid.unop ((Rᵐᵒᵖ)⁰[R]) = R⁰ := rfl
```

File: Mathlib/GroupTheory/Submonoid/MulOpposite.lean (hunk 12 above)
Comment (jjaassoonn) [reply Mathlib/GroupTheory/Submonoid/MulOpposite.lean]: thanks

File: Mathlib/GroupTheory/Submonoid/MulOpposite.lean (hunk 13 above)
Comment (jjaassoonn) [reply Mathlib/GroupTheory/Submonoid/MulOpposite.lean]: Done. I also changed `oppositeEquiv` to `equivOp` below this definition

File: Mathlib/GroupTheory/Subgroup/MulOpposite.lean [hunk 15]
```diff
@@ -40,6 +41,14 @@ def opposite : Subgroup G ≃ Subgroup Gᵐᵒᵖ
 #align subgroup.opposite Subgroup.opposite
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/GroupTheory/Subgroup/MulOpposite.lean]: done

File: Mathlib/RingTheory/NonZeroDivisors.lean (hunk 14 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/NonZeroDivisors.lean]: done

File: Mathlib/GroupTheory/Subgroup/MulOpposite.lean [hunk 16]
```diff
@@ -21,52 +21,61 @@ variable {G : Type*} [Group G]
...
-      mul_mem' := fun ha hb => H.mul_mem hb ha
-      inv_mem' := H.inv_mem }
+def opEquiv : Subgroup G ≃ Subgroup Gᵐᵒᵖ where
+  toFun := op
+  invFun := unop
   left_inv _ := SetLike.coe_injective rfl
   right_inv _ := SetLike.coe_injective rfl
-#align subgroup.opposite Subgroup.opposite
-#align add_subgroup.opposite AddSubgroup.opposite
+#noalign subgroup.opposite
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/MulOpposite.lean:50]:
```suggestion
#align subgroup.opposite Subgroup.opEquiv
```

File: Mathlib/GroupTheory/Subgroup/MulOpposite.lean [hunk 17]
```diff
@@ -21,52 +21,61 @@ variable {G : Type*} [Group G]
...
-    { carrier := MulOpposite.unop ⁻¹' (H : Set G)
-      one_mem' := H.one_mem
-      mul_mem' := fun ha hb => H.mul_mem hb ha
-      inv_mem' := H.inv_mem }
-  invFun H :=
-    { carrier := MulOpposite.op ⁻¹' (H : Set Gᵐᵒᵖ)
-      one_mem' := H.one_mem
-      mul_mem' := fun ha hb => H.mul_mem hb ha
-      inv_mem' := H.inv_mem }
+def opEquiv : Subgroup G ≃ Subgroup Gᵐᵒᵖ where
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/MulOpposite.lean:45]: I think this should now be `simps`

File: Mathlib/GroupTheory/Subgroup/MulOpposite.lean [hunk 18]
```diff
@@ -21,52 +21,61 @@ variable {G : Type*} [Group G]
 
 namespace Subgroup
 
+/-- pull a subgroup back to an opposite subgroup along `unop`-/
+@[to_additive (attr := simps)
+"pull an additive subgroup back to an opposite additive subgroup along `unop`"]
+def op (H : Subgroup G) : Subgroup Gᵐᵒᵖ where
+  carrier := MulOpposite.unop ⁻¹' (H : Set G)
+  one_mem' := H.one_mem
+  mul_mem' := fun ha hb => H.mul_mem hb ha
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/MulOpposite.lean:30]:
```suggestion
  mul_mem' ha hb := H.mul_mem hb ha
```

File: Mathlib/GroupTheory/Subgroup/MulOpposite.lean [hunk 19]
```diff
@@ -20,44 +21,61 @@ variable {G : Type*} [Group G]
...
   left_inv _ := SetLike.coe_injective rfl
   right_inv _ := SetLike.coe_injective rfl
-#align subgroup.opposite Subgroup.opposite
-#align add_subgroup.opposite AddSubgroup.opposite
+#align subgroup.opposite Subgroup.opEquiv
+#align add_subgroup.opposite AddSubgroup.opEquiv
+
+@[to_additive (attr := simp, nolint simpNF)] lemma opposite_toSubmonoid (H : Subgroup G) :
+    (opEquiv H).toSubmonoid = Submonoid.opEquiv H.toSubmonoid :=
+  rfl
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/MulOpposite.lean:55]:
```suggestion
@[to_additive (attr := simp, nolint simpNF)] lemma opposite_toSubmonoid (H : Subgroup G) :
    H.op.toSubmonoid = H.toSubmonoid.op :=
  rfl
```
as I wouldn't expect your spelling to be simp-normal. The name and position of the lemma should also change, as should the `symm` version below.

Comment (jjaassoonn) [reply Mathlib/GroupTheory/Subgroup/MulOpposite.lean]: done

File: Mathlib/GroupTheory/Subgroup/MulOpposite.lean [hunk 20]
```diff
@@ -20,44 +21,61 @@ variable {G : Type*} [Group G]
...
-#align add_subgroup.opposite_equiv AddSubgroup.oppositeEquiv
-#align subgroup.opposite_equiv_symm_apply_coe Subgroup.oppositeEquiv_symm_apply_coe
+#align subgroup.opposite_equiv Subgroup.equivOp
+#align add_subgroup.opposite_equiv AddSubgroup.equivOp
+#align subgroup.opposite_equiv_symm_apply_coe Subgroup.equivOp_symm_apply_coe
 
 @[to_additive]
-instance (H : Subgroup G) [Encodable H] : Encodable (opposite H) :=
-  Encodable.ofEquiv H H.oppositeEquiv.symm
+instance (H : Subgroup G) [Encodable H] : Encodable (opEquiv H) :=
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/MulOpposite.lean:70]:
```suggestion
instance (H : Subgroup G) [Encodable H] : Encodable H.op :=
```
and below

File: Mathlib/GroupTheory/Submonoid/MulOpposite.lean [hunk 21]
```diff
@@ -0,0 +1,49 @@
...
+  carrier := MulOpposite.unop ⁻¹' x.1
+  mul_mem' ha hb := x.mul_mem hb ha
+  one_mem' := Submonoid.one_mem' _
+
+/-- pull an opposite submonoid back to a submonoid along `op`-/
+@[to_additive (attr := simps) "pull an opposite additive submonoid back to a submonoid along `op`"]
+def unop {M : Type*} [MulOneClass M] (x : Submonoid (MulOpposite M)) : Submonoid M where
+  carrier := MulOpposite.op ⁻¹' x.1
+  mul_mem' ha hb := x.mul_mem hb ha
+  one_mem' := Submonoid.one_mem' _
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Submonoid/MulOpposite.lean:33]: I guess it probably makes things less painful downstream if these are `protected`

**Review by eric-wieser — COMMENTED** [review]
Sorry for encouraging the scope to grow so large here. Would you mind splitting out everything except the `Mathlib/RingTheory/NonZeroDivisors.lean` change to a new PR (which I'll merge first)? If that's awkward for you, I'm happy to do the git-fu if you open a dummy PR for me to push to.

**Comment by jjaassoonn** [comment]
> Sorry for encouraging the scope to grow so large here. Would you mind splitting out everything except the `Mathlib/RingTheory/NonZeroDivisors.lean` change to a new PR (which I'll merge first)? If that's awkward for you, I'm happy to do the git-fu if you open a dummy PR for me to push to.

please see #7415

**Comment by eric-wieser** [comment]
bors d+

Thanks!

Do you think it would make sense to change `nonZeroDivisors` to be left-divisors instead of right divisors?

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

**Comment by jjaassoonn** [comment]
> bors d+
> 
> Thanks!
> 
> Do you think it would make sense to change `nonZeroDivisors` to be left-divisors instead of right divisors?

I just quickly searched `nonZeroDivisors`, it seems that `nonZeroDivisors` is used only in commutative cases, so it should not affect anything if it is changed to right divisors, but it is a non-trivial change to be made.

I have been away for the last month and it seems that the delegation is expired. Can you re-review this and merge it if appropritate please @eric-wieser?

**Comment by alreadydone** [comment]
We have a new (self-hosted) bors bot now :) It was [resurrected](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/bors.20going.20away.3F/near/400788923) from its grave and lost all memory about its past life apparently :)

File: Mathlib/RingTheory/NonZeroDivisors.lean [hunk 22]
```diff
@@ -5,26 +5,29 @@ Authors: Kenny Lau, Devon Tuma
...
 
-This file declares the notation `R⁰` for the submonoid of non-zero-divisors of `R`,
-in the locale `nonZeroDivisors`.
+This file declares the notations:
+- `R⁰` for the submonoid of non-zero-divisors of `R`, in the locale `nonZeroDivisors`.
+- `R⁰[M]` for the submonoid of non-zero smul-divisors of `R` with respect to `M`, in the locale
+  `nonZeroSMulDivisors`
 
-Use the statement `open nonZeroDivisors` to access this notation in your own code.
+Use the statement `open nonZeroDivisors nonZeroSMulDivisors` to access this notation in your own
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NonZeroDivisors.lean:25]:
```suggestion
Use the statement `open scoped nonZeroDivisors nonZeroSMulDivisors` to access this notation in your own
```

**Review by eric-wieser — APPROVED** [review]
bors d+

(again)
